US07700641B2
Synthesis of 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained as a colorless solid: 1H NMR (300 MHz, CDCl3) δ 7.16 (d, 1H), 7.15 (s, 1H), 6.84 (dd, 1H), 6.45 (s, 1H), 6.06 (s, 1H), 5.86 (dd, 2H), 4.90 (ABq, 2H), 3.83-3.60 (m, 2H), 1.74-1.64 (m, 2H), 1.39-1.28 (m, 4H), 0.89 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 177.1, 157.2, 149.1, 144.6, 142.0, 130.3, 130.1, 127.0, 120.0, 116.5, 107.6, 102.5, 101.5, 93.3, 77.3, 59.6, 40.6, 29.0, 27.0, 22.3, 14.0; MS (ES+) m/z 430 (M+1).

reactant | 4-bromo-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(CO)C1=CC2=C(OCO2)C=C1O | C21H22BrNO5
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
